US09193720B2
To a stirred solution of (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-hydroxyphenyl)-2,6-dimethylpyridin-3-yl)acetate (0.042 g, 0.090 mmol), 3,3-dimethylbutan-1-ol (0.046 g, 0.448 mmol) and Ph3P (0.071 g, 0.269 mmol) in THF (5 mL) was added DEAD (0.043 ml, 0.269 mmol) at 0° C. After 1 h, cold bath was removed and stirred overnight (15 h) at rt. Then, reaction mixture was concentrated and purified by prep-HPLC to afford (S)-ethyl 2-(tert-butoxy)-2-(5-(4-(3,3-dimethylbutoxyl)phenyl)-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)acetate (0.0205 g, 0.037 mmol, 41.4% yield) as white solid. 1H NMR (500 MHz, CDCl3) δ 7.14-7.17 (m, 1H), 7.05-7.09 (m, 1H), 6.95-6.99 (m, 2H), 6.09 (s, 1H), 4.27 (qd, J=7.1, 10.8 Hz, 1H), 4.17 (qd, J=7.1, 10.7 Hz, 1H), 4.08-4.13 (m, 2H), 3.19 (d, J=11.8 Hz, 1H), 2.88 (t, J=12.1 Hz, 1H), 2.61 (s, 3H), 2.28 (d, J=11.8 Hz, 1H), 2.21 (s, 3H), 2.07 (t, J=11.8 Hz, 1H), 1.79 (t, J=7.3 Hz, 2H), 1.56 (td, J=3.7, 12.4 Hz, 1H), 1.34-1.42 (td, J=3.5, 12.5 Hz, 1H), 1.26 (t, J=7.1 Hz, 3H), 1.21 (s, 9H), 1.17-1.20 (m, 1H), 1.08 (d, J=12.9 Hz, 1H), 1.04 (s, 9H), 0.90 (s, 3H), 0.66 (s, 3H). LCMS (M+H)=553.4.

reactant | (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-hydroxyphenyl)-2,6-dimethylpyridin-3-yl)acetate | 0.090 mmol, 0.042 g | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)O)C)C | C28H40N2O4
reactant | 3,3-dimethylbutan-1-ol | 0.448 mmol, 0.046 g | CC(CCO)(C)C | C6H14O
reactant | Ph3P | 0.269 mmol, 0.071 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 0.269 mmol, 0.043 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (S)-ethyl 2-(tert-butoxy)-2-(5-(4-(3,3-dimethylbutoxyl)phenyl)-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)acetate | 0.037 mmol, 0.0205 g, 41.4% yield | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCCC(C)(C)C)C)C | C34H52N2O4
